US08039469B2
Step 3: Preparation of tert-butyl 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(3-pyridin-4-ylureido)phenyl)-1,3,5-triazin-2-yl)piperazine-1-carboxylate
Crude tert-butyl 4-(4-(4-aminophenyl)-6-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-1,3,5-triazin-2-yl)piperazine-1-carboxylate (approx. 1.4 mmol) was dissolved in tetrahydrofuran (20 mL) and then treated sequentially with triphosgene (0.30 g, 1.0 mmol) and triethylamine (2 mL). After 5 minutes, the mixture was treated with a solution of 4-aminopyridine (0.53 g, 5.6 mmol) in tetrahydrofuran. The mixture was concentrated under reduced pressure to give crude tert-butyl 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(3-pyridin-4-ylureido)phenyl)-1,3,5-triazin-2-yl)piperazine-1-carboxylate, a sample of which was purified by reversed phase HPLC to give a pure title compound.

reactant | tert-butyl 4-(4-(4-aminophenyl)-6-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-1,3,5-triazin-2-yl)piperazine-1-carboxylate | approx. 1.4 mmol | NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CC2CCC(C1)O2)N2CCN(CC2)C(=O)OC(C)(C)C | C24H33N7O3
reactant | triphosgene | 1.0 mmol, 0.30 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-aminopyridine | 5.6 mmol, 0.53 g | NC1=CC=NC=C1 | C5H6N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(3-pyridin-4-ylureido)phenyl)-1,3,5-triazin-2-yl)piperazine-1-carboxylate | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C30H37N9O4
